US07994176B2
1-(4-Benzyloxy-2,6-dichloro-benzyl)-3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one
Treat a solution of 3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one (0.75 g, 1.78 mmol) in DMF (25 mL) with 60% sodium hydride (0.11 g, 2.67 mmol) and stir at room temperature for 15 minutes under N2. Cool the reaction to 0° C., treat with 2-bromomethyl-1,3-dichloro-5-benzyloxy-benzene (0.74 g, 2.13 mmol), and stir for 30 minutes at 0° C. Warm to room temperature and stir for 30 minutes under N2. Quench the reaction with water and dilute with diethyl ether. Wash the organic layer with water three times, dry (Na2SO4), and remove the solvent in vacuo to afford crude product. Purify with a 0 to 30% ethyl acetate in hexanes gradient to afford 1.2 g (99%) of the titled product. MS (m/z): 686 (M+).

reactant | 3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one | 1.78 mmol, 0.75 g | C(C)(C)(C)[Si](OC1CCC(CC1)C1C(NCC1)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H35NO2Si
reactant | sodium hydride | 2.67 mmol, 0.11 g | [H-].[Na+]
reactant | 2-bromomethyl-1,3-dichloro-5-benzyloxy-benzene | 2.13 mmol, 0.74 g | BrCC1=C(C=C(C=C1Cl)OCC1=CC=CC=C1)Cl | C14H11BrCl2O
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-Benzyloxy-2,6-dichloro-benzyl)-3-[4-(tert-butyl-diphenyl-silanyloxy)-cyclohexyl]-pyrrolidin-2-one | 1.2 g, 99% | C(C1=CC=CC=C1)OC1=CC(=C(CN2C(C(CC2)C2CCC(CC2)O[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)=O)C(=C1)Cl)Cl | C40H45Cl2NO3Si
